US05280032
1.8 g of 1-acetoxy-2-[2-(N,N-dimethylamino)ethoxy]-1-[1-(tetrahydropyran-2-yloxy)indan-5-yl]ethane was added to 30 ml of a 4:2:1 mixed solution of acetic acid, tetrahydrofuran and water. The resulting mixture was stirred at 70° C. for 2 hours. The reaction mixture was cooled and added to a mixture of 100 ml of water and 100 ml of diethyl ether. The resulting mixture was adjusted to pH 8.5 with potassium carbonate. The organic layer was separated and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue thus obtained was purified by column chromatography (eluant: chloroform/ethanol=10/1) to obtain 1.0 g of oily 1-acetoxy-1-[(1-hydroxy)indan-5-yl]-2-[2-(N,N-dimethylamino)ethoxy]ethane (compound No. 296).

reactant | 1-acetoxy-2-[2-(N,N-dimethylamino)ethoxy]-1-[1-(tetrahydropyran-2-yloxy)indan-5-yl]ethane | 1.8 g | C(C)(=O)OC(COCCN(C)C)C=1C=C2CCC(C2=CC1)OC1OCCCC1 | C22H33NO5
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | water | 100 ml | O | H2O
product | 1-acetoxy-1-[(1-hydroxy)indan-5-yl]-2-[2-(N,N-dimethylamino)ethoxy]ethane | 1.0 g | C(C)(=O)OC(COCCN(C)C)C=1C=C2CCC(C2=CC1)O | C17H25NO4
